US07151109B2
Preparation of 7-(2-chloro-4-methoxyphenyl)-2,6-dimethylpyrazolo[1,5-a]pyridin-3-amine
A 0° C. solution of 7-(2-chloro-4-methoxyphenyl)-2,6-dimethylpyrazolo[1,5-a]pyridine-3-carboxylic acid (0.58 g, 1.8 mmol) and triethylamine (0.30 mL, 2.2 mmol) in toluene (10 mL) was treated with diphenylphosphoryl azide (0.40 mL, 1.8 mmol) and stirred for 2.5 hours at 0° C. The reaction mixture was poured into H2O, extracted with Et2O, washed with brine, dried over MgSO4, and filtered. The filtrate was concentrated in vacuo to remove the Et2O. Toluene (20 mL) was added and the reaction was heated to reflux for 3 hours. The reaction was treated with 2N HCl (5 mL) and stirred at reflux for 1 hour then cooled to room temperature. The layers were separated and the aqueous layer was basified with solid K2CO3. The residue was extracted with CH2Cl2, dried over MgSO4 and filtered. The filtrate was concentrated in vacuo to give 0.046 g (9%) of a yellow oily solid as the title compound: 1H NMR (400 MHz, CDCl3) δ 7.42 (d, J=7.1 Hz, 1H), 7.35 (d, J=9.3 Hz, 1H), 7.13 (d, J=2.5 Hz, 1H), 7.01 (dd, J=8.5, 2.5 Hz, 1H), 6.96 (d, J=8.8 Hz, 1H), 3.90 (s, 3H), 2.38 (s, 3H), 2.08 (s, 3H); MS (EI) m/z 302.18 (M++H).

reactant | 7-(2-chloro-4-methoxyphenyl)-2,6-dimethylpyrazolo[1,5-a]pyridine-3-carboxylic acid | 1.8 mmol, 0.58 g | ClC1=C(C=CC(=C1)OC)C1=C(C=CC=2N1N=C(C2C(=O)O)C)C | C17H15ClN2O3
reactant | triethylamine | 2.2 mmol, 0.30 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 1.8 mmol, 0.40 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | H2O | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 7-(2-chloro-4-methoxyphenyl)-2,6-dimethylpyrazolo[1,5-a]pyridin-3-amine | 0.046 g, 9% | ClC1=C(C=CC(=C1)OC)C1=C(C=CC=2N1N=C(C2N)C)C | C16H16ClN3O
